US08865321B2
Synthesis of 4,5-dimethyl-N,N′-bis(biphenyl-4-yl)-1,2-benzenediamine
The synthesis is carried out in accordance with the general procedure in accordance with Example 2 from 63.3 g (240 mmol) of 1,2-dibromo-4,5-dimethylbenzene and 85.4 g (505 mmol) of 4-aminobiphenyl. The precipitated solid is recrystallised from toluene/acetonitrile (5:1), and the residue is washed with MeOH, giving 80.3 g (182 mmol) of a crystalline solid. The overall yield is 76%.

reactant | 1,2-dibromo-4,5-dimethylbenzene | 240 mmol, 63.3 g | BrC1=C(C=C(C(=C1)C)C)Br | C8H8Br2
reactant | 4-aminobiphenyl | 505 mmol, 85.4 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
product | 4,5-dimethyl-N,N′-bis(biphenyl-4-yl)-1,2-benzenediamine | 182 mmol, 80.3 g, yield is 76% | CC=1C=C(C(=CC1C)NC1=CC=C(C=C1)C1=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=CC=C1 | C32H28N2
